US04960775
A stirred solution of ethyl (E)-7-{1-(4-fluorophenyl)-3-isopropylpyrrolo[2,1-a]phthalazin-2-yl}-5- hydroxy-3-oxohept-6-enoate (3.98 g) in methanol (120 ml) under an argon atmosphere at 0°-5° C. was treated with sodium borohydride (243 mg). After 3 hours the solution was allowed to warm to room temperature, and was then evaporated to small volume (20 ml). The solution was treated with water (300 ml), and extracted with a mixture of diethyl ether and ethyl acetate (2×250 ml; 1:1 v/v). The combined extracts were dried over magnesium sulphate and evaporated, to give methyl (E)-7-{1-(4-fluorophenyl)-3-isopropylpyrrolo[2,1-a]-phthalazin-2-yl}-3,5-dihydroxyhept-6-enoate, in the form of an orange foam (3.16 g).

reactant | ethyl (E)-7-{1-(4-fluorophenyl)-3-isopropylpyrrolo[2,1-a]phthalazin-2-yl}-5- hydroxy-3-oxohept-6-enoate | 3.98 g | FC1=CC=C(C=C1)C=1C(=C(N2C1C1=CC=CC=C1C=N2)C(C)C)/C=C/C(CC(CC(=O)OCC)=O)O | C29H29FN2O4
reactant | sodium borohydride | 243 mg | [BH4-].[Na+]
solvent | methanol | 120 ml | CO | CH4O
product | methyl (E)-7-{1-(4-fluorophenyl)-3-isopropylpyrrolo[2,1-a]-phthalazin-2-yl}-3,5-dihydroxyhept-6-enoate | FC1=CC=C(C=C1)C=1C(=C(N2C1C1=CC=CC=C1C=N2)C(C)C)/C=C/C(CC(CC(=O)OC)O)O | C28H29FN2O4
